US08389511B2
Methyl 4-[(2-ethoxy-1,1-dimethyl-2-oxoethyl)thio]-2-methyl-5-nitrobenzoate
To a solution of methyl 4-mercapto-2-methyl-5-nitrobenzoate (1.17 g) in N,N-dimethyl-formamide (20 ml) were added potassium carbonate (1.42 g), ethyl 2-bromoisobutyrate, and the mixture was stirred at 80° C. for 4 hours. After the reaction was complete, water and 2N hydrochloric acid were added thereto, and the mixture was extracted with ethyl acetate. The organic layer was dried over sodium sulfate, filtered, concentrated under reduced pressure. The obtained residue was purified by column chromatography to give a crude product of the title compound (3.56 g).

reactant | methyl 4-mercapto-2-methyl-5-nitrobenzoate | 1.17 g | SC1=CC(=C(C(=O)OC)C=C1[N+](=O)[O-])C | C9H9NO4S
reactant | potassium carbonate | 1.42 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl 2-bromoisobutyrate | BrC(C(=O)OCC)(C)C | C6H11BrO2
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | N,N-dimethyl-formamide | 20 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | Methyl 4-[(2-ethoxy-1,1-dimethyl-2-oxoethyl)thio]-2-methyl-5-nitrobenzoate | 3.56 g | C(C)OC(C(C)(C)SC1=CC(=C(C(=O)OC)C=C1[N+](=O)[O-])C)=O | C15H19NO6S
